US08563723B2
N-(2-Bromo-phenyl)-2,2,2-trifluoro-acetamide
24.9 g 2-Bromoaniline was dissolved in 200 mL DCM. 28.0 mL (1.4 equiv.) triethylamine was added and the reaction mixture was cooled to 0° C. Then, 24.0 mL (1.2 equiv.) trifluoroacetic anhydride was added dropwise, keeping the temperature of the reaction mixture below 10° C.). The mixture was allowed to warm to room temperature, stirred for 2 hours and quenched with water. The organic layer was separated, dried over Na2SO4, filtered and evaporated under reduced pressure. Purification by flash chromatography (Et2O/PA 1:6) afforded 34.6 g (89%) of a white crystalline compound. 1H NMR (400 MHz, CDCl3) δ 7.12 (dt, J=7.8, 1.3 Hz, 1H), 7.39 (dt, J=7.8, 1.3 Hz, 1H), 7.61 (dd, J=8.0, 1.3 Hz, 1H), 8.31 (dd, J=8.0, 1.3 Hz, 1H), 8.45 (br.s., 1H).

reactant | 2-Bromoaniline | 24.9 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | triethylamine | 28.0 mL, 1.4 equiv. | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 24.0 mL, 1.2 equiv. | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | N-(2-Bromo-phenyl)-2,2,2-trifluoro-acetamide | 34.6 g, 89% | BrC1=C(C=CC=C1)NC(C(F)(F)F)=O | C8H5BrF3NO
